US04497805
2β,3α-Dihydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylic acid hydrochloride
Methyl 2β,3α-dihydroxy-11α-(3-methylbutylamino)5α-androstane-17β-carboxylate (750 mg) in dioxan (20 ml) was treated with concentrated hydrochloric acid (3 ml) and water (10 ml) and heated on a steam bath for 5 days. The cooled mixture was diluted with water (200 ml) and acidified to pH 1 with dilute hydrochloric acid and extracted with ethyl acetate (3×). The extracts were washed with brine, dried and evaporated to give a foam (426 mg). This was purified by preparative t.l.c. in chloroform/methanol (4:1) to give the title compound (146 mg), [α]D +17° (in dimethyl sulphoxide).

reactant | Methyl 2β,3α-dihydroxy-11α-(3-methylbutylamino)5α-androstane-17β-carboxylate | 750 mg | O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C1)C)NCCC(C)C)C(=O)OC)O | C26H45NO4
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 2β,3α-Dihydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylic acid hydrochloride | 426 mg | Cl.O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C1)C)NCCC(C)C)C(=O)O)O | InChI=1S/C25H43NO4.ClH/c1-14(2)9-10-26-19-12-25(4)17(7-8-18(25)23(29)30)16-6-5-15-11-20(27)21(28)13-24(15,3)22(16)19;/h14-22,26-28H,5-13H2,1-4H3,(H,29,30);1H/t15-,16-,17-,18+,19+,20-,21-,22+,24-,25-;/m0./s1
